### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Maps): lemmas about support

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 1]
```diff
@@ -209,6 +213,17 @@ lemma induce_adj {s : Set V} {u v : s} : (G.induce s).Adj u v ↔ G.Adj u v := .
 @[simp] lemma induce_top (s : Set V) : (completeGraph V).induce s = completeGraph s :=
   comap_top Subtype.val_injective
 
+@[simp]
+lemma induce_bot (s : Set V) : (⊥ : SimpleGraph V).induce s = ⊥ :=
+  comap_bot _
+
+lemma support_induce_subset_coe_inv (s : Set V) : (G.induce s).support ⊆ (↑) ⁻¹' s :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]: It's called `preimage`, not `inv`. Same below

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 2]
```diff
@@ -219,12 +234,31 @@ This is a wrapper around `SimpleGraph.map`. -/
...
+    G.spanningCoe.support = (↑) '' G.support :=
+  G.support_map _
+
 theorem induce_spanningCoe {s : Set V} {G : SimpleGraph s} : G.spanningCoe.induce s = G :=
   comap_map_eq _ _
 
 theorem spanningCoe_induce_le (s : Set V) : (G.induce s).spanningCoe ≤ G :=
   map_comap_le _ _
 
+theorem spanningCoe_induce_eq_iff (s : Set V) : (G.induce s).spanningCoe = G ↔ G.support ⊆ s := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
theorem spanningCoe_induce_eq_self (s : Set V) : (G.induce s).spanningCoe = G ↔ G.support ⊆ s := by
```

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 3]
```diff
@@ -219,12 +234,31 @@ This is a wrapper around `SimpleGraph.map`. -/
...
+  refine ⟨fun h v hv ↦ ?_, fun h ↦ le_antisymm (G.spanningCoe_induce_le s) fun u v hadj ↦ ?_⟩
+  · rw [← h, support_spanningCoe] at hv
+    have ⟨u, _, hvu⟩ := hv
+    exact hvu ▸ u.prop
+  · exact ⟨⟨u, h hadj.left_mem_support⟩, ⟨v, h hadj.right_mem_support⟩, hadj, rfl, rfl⟩
+
+@[simp]
+theorem spanningCoe_induce_support : (G.induce G.support).spanningCoe = G :=
+  G.spanningCoe_induce_eq_iff _ |>.mpr <| refl _
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]: nit:
```suggestion
  G.spanningCoe_induce_eq_iff _ |>.mpr .rfl
```

**Review by YaelDillies — COMMENTED** [review]
I am somewhat concerned that most of these lemmas will become redundant once we make simple graphs supported on a set. Have you thought about this?

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 4]
```diff
@@ -217,6 +221,17 @@ lemma induce_adj {s : Set V} {u v : s} : (G.induce s).Adj u v ↔ G.Adj u v := .
 @[simp] lemma induce_top (s : Set V) : (completeGraph V).induce s = completeGraph s :=
   comap_top Subtype.val_injective
 
+@[simp]
+lemma induce_bot (s : Set V) : (⊥ : SimpleGraph V).induce s = ⊥ :=
+  comap_bot _
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]: This should not be tagged with `simp` since `simp` already solves it, in fact `dsimp` already solves it so I think this doesn't need to be a lemma for now, but this raised the issue that there is a lemma called `SimpleGraph.emptyGraph_eq_bot`, I don't think we should have this since `emptyGraph` is just an abbrev for `bot`, so we don't want to apply a `simp` lemma just to get this equality, can you remove that lemma please?

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 5]
```diff
@@ -226,12 +241,31 @@ This is a wrapper around `SimpleGraph.map`. -/
...
 theorem induce_spanningCoe {s : Set V} {G : SimpleGraph s} : G.spanningCoe.induce s = G :=
   comap_map_eq _ _
 
 theorem spanningCoe_induce_le (s : Set V) : (G.induce s).spanningCoe ≤ G :=
   map_comap_le _ _
 
+theorem spanningCoe_induce_eq_self (s : Set V) : (G.induce s).spanningCoe = G ↔ G.support ⊆ s := by
+  refine ⟨fun h v hv ↦ ?_, fun h ↦ le_antisymm (G.spanningCoe_induce_le s) fun u v hadj ↦ ?_⟩
+  · rw [← h, support_spanningCoe] at hv
+    have ⟨u, _, hvu⟩ := hv
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean:256]:
```suggestion
    obtain ⟨u, _, hvu⟩ := hv
```

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean:256]: What's the advantage of using a more complicated tactic if the simpler one is enough?

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean (hunk 4 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: Wow this is a strange situation, I have untagged `@[simp]`, I wonder why the simpNF linter doesn't catch this.
As for removing this I disagree, it helps discoverability.
As for removing `emptyGraph_eq_bot`, the situation seems complicated to me, but maybe you can remove it yourself and/or discuss it in https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/completeGraph.20vs.20.E2.8A.A4/with/517274699

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean:256]: Hopefully `have` absorbs all the functionalities of `obtain` eventually. In the meantime, I tend to prefer always using the stronger tactic to avoid having to think about whether the weaker one is enough when there is zero performance cost (same thing for `intro` vs `rintro`), but this is a personal preference

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean (hunk 4 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: Sure. The linter false negative should be reported, once I'm home I'll do that, in the meantime, if it is possible to not modify this PR's past commit history, I'd appreciate it so that I can refer to the commit containing the `simp` tag.

Also if you are going to add this then I suggest proving it via `rfl` instead of `simp`.

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean (hunk 5 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean:256]: To add to Yaël's point, I find `obtain` to be more semantic than `have` here, but yes this is not very important.

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean (hunk 4 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: > Also if you are going to add this then I suggest proving it via `rfl` instead of `simp`.

I'd love to but I have been told before that such lemmas (lemmas that look like good simp lemmas but simp can prove them) should be solved with simp to make it clear to the reader why they can't be tagged.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: This is a separate concern. Proving a lemma with `rfl` means that `dsimp` will use it

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: I'm not sure I understand. Are you suggesting adding back the `simp` tag?
`dsimp` already solves this lemma.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: Then it should be proved by `dsimp`!

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
